### PR TITLE
[Merged by Bors] - feat: translations of ample sets are ample

### PR DESCRIPTION
**Pull request by grunweg**
This was supposed to be included in #11344, as even the module docstring shows

Inspired by the sphere-eversion project (but golfed and slightly extended).
Also, use namespace AmpleSet in the file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/AmpleSet.lean [hunk 1]
```diff
@@ -97,3 +98,15 @@ theorem AmpleSet.preimage {s : Set F} (h : AmpleSet s) (L : E ≃ᵃL[ℝ] F) :
 theorem AmpleSet.preimage_iff {s : Set F} (L : E ≃ᵃL[ℝ] F) :
     AmpleSet (L ⁻¹' s) ↔ AmpleSet s :=
   ⟨fun h ↦ L.image_preimage s ▸ h.image L, fun h ↦ h.preimage L⟩
+
+open scoped Pointwise
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/AmpleSet.lean:102]:
```suggestion
open scoped Pointwise

```

Otherwise I would probably think this is an `open ... in`

File: Mathlib/Analysis/Convex/AmpleSet.lean [hunk 2]
```diff
@@ -97,3 +98,15 @@ theorem AmpleSet.preimage {s : Set F} (h : AmpleSet s) (L : E ≃ᵃL[ℝ] F) :
...
+/-- Affine translations of ample sets are ample. -/
+theorem AmpleSet.vadd [ContinuousAdd E] {s : Set E} (h : AmpleSet s) {y : E} :
+    AmpleSet (y +ᵥ s) :=
+  h.image (ContinuousAffineEquiv.constVAdd ℝ E y)
+
+theorem AmpleSet.vadd_iff [ContinuousAdd E] {s : Set E} {y : E} :
+    AmpleSet (y +ᵥ s) ↔ AmpleSet s := by
+  refine ⟨fun h ↦ ?_, fun h ↦ h.vadd⟩
+  convert h.vadd (E := E) (y := -y)
+  rw [neg_vadd_vadd]
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/AmpleSet.lean:112]:
```suggestion
    AmpleSet (y +ᵥ s) ↔ AmpleSet s := 
  AmpleSet.image_iff (ContinuousAffineEquiv.constVAdd ℝ E y)
```
(untested)

**Review by ADedecker — APPROVED** [review]

**Comment by grunweg** [comment]
Thanks for the good suggestions. I added two more commits; the first one uses the namespace `AmpleSet` (now that sufficiently many lemmas use it); the second tweaks the docs very slightly.
awaiting-review

**Comment by ocfnash** [comment]
Thanks!

bors merge
